US05352678
Trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-4-[(2-chlorophenyl)methyl]piperazine
The title compound was prepared from trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]piperazine and 2-chlorobenzyl chloride by the method described in example 15 to give the product (89%, mp: 89°-90° C.). Calc'd for C24H29ClN2O2 : C, 69.81%; H, 7.08%; N, 6.79%. Found: C, 69.50%; H, 7.03%; N, 6.71%.

reactant | trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]piperazine | O1COC2=C1C=CC(=C2)[C@@H]2CC[C@H](CC2)N2CCNCC2 | C17H24N2O2
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
product | Trans 1-[4-(1,3-benzodioxol-5-yl)-1-cyclohexyl]-4-[(2-chlorophenyl)methyl]piperazine | O1COC2=C1C=CC(=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)CC2=C(C=CC=C2)Cl | C24H29ClN2O2
